US07728003B2
Step A. 8-Indan-5-yl-5-oxo-2-(2-piperidin-1-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 1(Step F) the title compound was prepared from 2-piperidin-1-yl-ethylamine (5.2 μL, 0.036 mmol) and 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (from Example 1(Step E), 15 mg, 0.036 mmol). 6.6 mg of 8-indan-5-yl-5-oxo-2-(2-piperidin-1-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ (ppm): 9.22 (s, 1H), 8.45 (s, 1H), 7.32 (d, 1H), 7.22 (s, 1H), 7.15 (d, 1H), 6.22 (br, 1H), 4.36 (q, 2H), 3.22 (m, 2H), 3.00 (m, 4H), 2.10-2.60 (m, 8H), 1.60 (m, 6H), 1.40 (t, 3H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C26H31N5O3: 462.24 (M+H). Found: 462.4.

reactant | 2-piperidin-1-yl-ethylamine | 0.036 mmol, 5.2 μL | N1(CCCCC1)CCN | C7H16N2
reactant | 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
product | 8-indan-5-yl-5-oxo-2-(2-piperidin-1-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 6.6 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCN2CCCCC2)N(C1)C=1C=C2CCCC2=CC1)=O | C26H31N5O3
